US08084449B2
A mixture of N-{[3-bromo-4-(methyloxy)phenyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide (260 mg, 0.400 mmol), 1,1-dimethylethyl (2S)-2-methyl-4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1-piperazinecarboxylate (166 mg, 0.400 mmol), Na2CO3 (127 mg, 1.199 mmol) and PdCl2(dppf) (29.2 mg, 0.040 mmol)) was diluted in a mixture of 1,4-dioxane (3 mL) and water (1 mL) in a 2-5 mL Biotage microwave reaction tube. The mixture was degassed by bubbling argon through it for 5 minutes and it was then heated in a Biotage microwave at normal absorption for 10 minutes at 100° C. The crude mixture was filtered through a PL-Thiol MP SPE+ and was then washed with ethyl acetate and water. The organic layer was concentrated under vacuum to obtain the crude residue. It was purified with a Gilson HPLC (with 0.1% TFA in the solvents), eluting with 10 to 70% CH3CN in water at a flow rate of 20 mL/min. The product fractions were dried using a EZ2 GeneVac evaporator and then combined to give 1,1-dimethylethyl (2S)-4-{[5′-{[({6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinyl}carbonyl)amino]methyl}-2′-(methyloxy)-3-biphenylyl]methyl}-2-methyl-1-piperazinecarboxylate. It was re-dissolved in 25% TFA in DCM (2 mL) and stirred at room temperature for 2 h. Solvent was evaporated under a stream of nitrogen and then the residue was purified with a Gilson HPLC (with 0.1% TFA in the solvents), eluting with 10 to 60% CH3CN in water at a flow rate of 20 mL/min. The product fractions were combined and converted to the free base with 1 N NaOH, and the basified solution was extracted with ethyl acetate twice. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and then concentrated under vacuum to give N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(6-(methyloxy)-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-2,6-pyridinedicarboxamide as a solid (48 mg, 15.8%). LC-MS m/z 760 (M+H)+, 0.80 min (ret time).

reactant | N-{[3-bromo-4-(methyloxy)phenyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide | 0.400 mmol, 260 mg | BrC=1C=C(C=CC1OC)CNC(=O)C1=NC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C31H36BrN7O4
reactant | 1,1-dimethylethyl (2S)-2-methyl-4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1-piperazinecarboxylate | 0.400 mmol, 166 mg | C[C@@H]1N(CCN(C1)CC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C(=O)OC(C)(C)C | C23H37BN2O4
reactant | Na2CO3 | 1.199 mmol, 127 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | PdCl2(dppf) | 0.040 mmol, 29.2 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1,1-dimethylethyl (2S)-4-{[5′-{[({6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinyl}carbonyl)amino]methyl}-2′-(methyloxy)-3-biphenylyl]methyl}-2-methyl-1-piperazinecarboxylate | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC=CC(=N2)C(=O)NCC=2C=CC(=C(C2)C2=CC(=CC=C2)CN2C[C@@H](N(CC2)C(=O)OC(C)(C)C)C)OC)CC | C48H61N9O6
